US04822787
To a solution of allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.46 g) in tetrahydrofuran (10 ml) were added dropwise acetic acid (0.5 ml) and a 1.1 M solution (3.2 ml) of tetrabutylammonium fluoride in tetrahydrofuran at ambient temperature. The mixture was stirred at the same temperature for 26 hours. To the mixture was added ethyl acetate (100 ml) and water (100 ml). The aqueous layer was adjusted to pH 7 with saturated aqueous sodium hydrogen carbonate. The organic layer was washed with brine, dried over medium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (10 g) and eluted with a mixture of acetone and dichloromethane (2:1 V/V) to give allyl (4R,5S,6S)-3-[(2S, 4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.17 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.46 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C)COCCNC(=O)N | C31H50N4O8SSi
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | allyl (4R,5S,6S)-3-[(2S, 4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.17 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCCNC(=O)N | C25H36N4O8S
